US06448270B1
B) 1-(4-(4-Aminophenyl)-3-butynyl)-4-benzylpiperidine
A mixture of 1-(but-3-yn-1-yl)-4-benzylpiperidine (227 mg, 1.00 mmol), 4-iodoaniline (263 mg, 1.20 mmol), copper (I) iodide (15 mg), PdCl2(PPh3)2 (28 mg) in 10 mL of Et3N is stirred at room temperature under N2 for 20 hr. The mixture is filtered and washed with Et3N (3×15 mL). The filtrate is evaporated in vacuo and is purified by flash chromatography to give the product as a pale yellow oil (50 mg, 16%): 1H NMR (CDCl3) 1.29 (m, 2 H) , 1.51 (m, 1 H), 1.66 (m, 2 H), 1.99 (m, 2 H), 2.58 (m, 6 H), 2.91 (m, 2 H), 3.73 (m, 2 H), 6.55 (d, J=7.8 Hz, 2 H), 7.13-7.28 (m, 7 H).

reactant | 1-(but-3-yn-1-yl)-4-benzylpiperidine | 1.00 mmol, 227 mg | C(CC#C)N1CCC(CC1)CC1=CC=CC=C1 | C16H21N
reactant | 4-iodoaniline | 1.20 mmol, 263 mg | IC1=CC=C(N)C=C1 | C6H6IN
solvent | Et3N | 10 mL | CCN(CC)CC | C6H15N
catalyst | copper (I) iodide | 15 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 28 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(4-(4-Aminophenyl)-3-butynyl)-4-benzylpiperidine | 50 mg, 16% | NC1=CC=C(C=C1)C#CCCN1CCC(CC1)CC1=CC=CC=C1 | C22H26N2
